* source BBCIRCUIT_SIMULATION
C_C5         0 N303632  470u  TC=0,0 
V_V18         N3039821 0  
+PULSE 5 0 {PHASE2} 0.01us 0.01us {DUTY1+0.02us} {PERIOD}
C_C6         N303632 N303760  470u  TC=0,0 
D_D2         0 N304090 D1N5818 
L_L6         N305072 N304090  4.7u  
C_C3         N303542 N303760  470u  TC=0,0 
V_V16         N3058701 0  
+PULSE 5 0 {PHASE2} 0.01us 0.01us {DUTY1+0.02us} {PERIOD}
L_L10         N304082 N303632  10m  
C_C2         0 N303542  470u  TC=0,0 
V_V9         N305072 0 {BATTERY}
V_V17         N3037821 N303756  
+PULSE 0 5 {PHASE2+0.01us} 0.01us 0.01us {DUTY1} {PERIOD}
L_L9         N303756 N303542  10m  
C_C18         N304822 N304176  100u  TC=0,0 
M_M8         N303756 N3039821 0 0 IRF150
V_V15         N3055181 N304082  
+PULSE 0 5 {PHASE2+0.01us} 0.01us 0.01us {DUTY1} {PERIOD}
M_M6         N304082 N3058701 0 0 IRF150
D_D7         0 N304082 D1N5818 
D_D6         N304082 N303760 D1N5818 
V_V8         N3054121 0  
+PULSE 5 0 {PHASE2} 0.01us 0.01us {DUTY1+0.02us} {PERIOD}
M_M2         N304090 N3054121 0 0 IRF150
V_V13         N3041941 N304120  
+PULSE 0 5 {PHASE4+0.01us} 0.01us 0.01us {DUTY1} {PERIOD}
V_V14         N3043301 0  
+PULSE 5 0 {PHASE4} 0.01us 0.01us {DUTY1+0.02us} {PERIOD}
C_C16         0 N304176  100u  TC=0,0 
M_M7         N303760 N3037821 N303756 N303756 IRF150
D_D1         N304090 N303760 D1N5818 
L_L3         N304120 N312527  100m  
R_R10         0 N304176  25 TC=0,0 
C_C17         0 N304822  100u  TC=0,0 
L_L1         N305072 N304082  4.7u  
D_D3         N304784 N303760 D1N5818 
V_V7         N3053521 N304090  
+PULSE 0 5 {PHASE2+0.01us} 0.01us 0.01us {DUTY1} {PERIOD}
D_D5         0 N304120 D1N5818 
M_M5         N303760 N3055181 N304082 N304082 IRF150
L_L5         N305072 N303756  4.7u  
D_D8         N303756 N303760 D1N5818 
M_M4         N304120 N3043301 0 0 IRF150
C_C4         0 N305072  470u  TC=0,0 
L_L2         N304090 N303666  10m  
M_M3         N304176 N3041941 N304120 N304120 IRF150
V_V10         N304788 0 {SOLAR}
C_C9         N303666 N303760  470u  TC=0,0 
M_M1         N303760 N3053521 N304090 N304090 IRF150
D_D4         N304120 N304176 D1N5818 
C_C8         0 N303666  470u  TC=0,0 
D_D9         0 N303756 D1N5818 
R_R7         N304788 N304784  5 TC=0,0 
V_V19         N3078341 N307816  
+PULSE 0 5 {PHASE4+0.01us} 0.01us 0.01us {DUTY1} {PERIOD}
M_M9         N304176 N3078341 N307816 N307816 IRF150
M_M10         N307816 N3084671 0 0 IRF150
V_V20         N3084671 0  
+PULSE 5 0 {PHASE4} 0.01us 0.01us {DUTY1+0.02us} {PERIOD}
Kn_K1         L_L9 L_L3     1
C_C28         0 N312542  100u  TC=0,0 
C_C29         N312542 N304176  100u  TC=0,0 
C_C31         N312527 N304176  100u  TC=0,0 
C_C30         0 N312527  100u  TC=0,0 
L_L11         N307816 N312542  100m  
L_L12         N314239 N304822  100m  
M_M11         N304176 N3142531 N314239 N314239 IRF150
V_V21         N3142531 N314239  
+PULSE 0 5 {PHASE4+0.01us} 0.01us 0.01us {DUTY1} {PERIOD}
V_V22         N3145311 0  
+PULSE 5 0 {PHASE4} 0.01us 0.01us {DUTY1+0.02us} {PERIOD}
M_M12         N314239 N3145311 0 0 IRF150
D_D10         0 N307816 D1N5818 
D_D11         0 N314239 D1N5818 
D_D12         N307816 N304176 D1N5818 
D_D13         N314239 N304176 D1N5818 
Kn_K2         L_L10 L_L11     1
Kn_K3         L_L2 L_L12     1
.PARAM  phase_diff=1us period=1us dead_area=0.1us phase1=0.1us phase2=0 l1=1m
+  phase3=1.1us duty1=0.7us solar=24 battery=12 duty2=5.2us phase4=0.04us
+  duty3=4us duty4=4.2us
